US05412117
To a mixture of 0.5 g of 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one, 0.37 g of phenyl isothio-cyanate, and 5 ml of dried N,N-dimethylformamide was added 0.31 g of potassium t-butoxide with under ice-cooling, followed by stirring for 5 hours under ice-cooling. Ice-water was added thereto, and the mixture was made acidic with acetic acid and extracted with diethyl ether. The extract was washed with water and dried over sodium sulfate, and the ether layer was removed by distillation. The residue was purified by silica gel column chromatography (developing solution: CH2Cl2) to obtain 0.4 g of N-phenyl-6- cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide represented by formula shown below.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-one | 0.5 g | C(#N)C=1C=CC2=C(CC(C(O2)(C)C)=O)C1 | C12H11NO2
reactant | phenyl isothio-cyanate | 0.37 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | potassium t-butoxide | 0.31 g | CC(C)([O-])C.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-phenyl-6- cyano-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 0.4 g | C1(=CC=CC=C1)NC(=S)C1=C(C(OC2=C1C=C(C=C2)C#N)(C)C)O | C19H16N2O2S
